US07612114B2
6-(2-Ethylaminophenyl)-5,6,7,8-tetrahydronaphthalen-2-ol
A mixture of 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (3.7 g), acetic anhydride (19 ml) and pyridine (19 ml) was stirred for 1 hour at room temperature. The reaction solution was concentrated in vacuo, then ethyl acetate (20 ml) and chloroform (5 ml) were added thereto, the crystal that was precipitated was filtered and dried. Synthesized from the total amount of the resulting N-[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide according to an analogous synthetic method to Example 364 described below, the total amount of N-[2-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide was used according to an analogous synthetic method to Example 337 described below to provide the title compound (2.3 g).

reactant | 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 3.7 g | COC=1C=C2CCC(CC2=CC1)C1=C(C=CC=C1)N | C17H19NO
reactant | acetic anhydride | 19 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-[2-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide | OC=1C=C2CCC(CC2=CC1)C1=C(C=CC=C1)NC(C)=O | C18H19NO2
solvent | pyridine | 19 ml | N1=CC=CC=C1 | C5H5N
product | 6-(2-Ethylaminophenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 2.3 g | C(C)NC1=C(C=CC=C1)C1CC=2C=CC(=CC2CC1)O | C18H21NO
